US04536516
4-(β-Dimethylaminoethoxy)-α-ethyldesoxybenzoin (b.p. 162° C./0.075 mm.) may be obtained from α-ethyl-4-hydroxydesoxybenzoin by an analogous procedure to that described below for the preparation of 4-(β-dimethylaminoethoxy)-α-methyldesoxybenzoin, and α-ethyl-4-hydroxydesoxybenzoin itself (m.p. 122°-124° C.) may be obtained from α-ethyl-4-methoxydesoxybenzoin by an analogous procedure to that described below for the preparation of 4-hydroxy-α-methyldesoxybenzoin.

reactant | 4-(β-dimethylaminoethoxy)-α-methyldesoxybenzoin | CN(CCOC1=CC=C(C=C1)C(=O)C(C1=CC=CC=C1)C)C | C19H23NO2
reactant | α-ethyl-4-hydroxydesoxybenzoin | C(C)C(C(C1=CC=C(C=C1)O)=O)C1=CC=CC=C1 | C16H16O2
product | α-ethyl-4-methoxydesoxybenzoin | C(C)C(C(C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C17H18O2
